US06451814B1
[4-(3-Cyclopentyloxy-4-methoxy-phenyl)-piperidin-1-yl]-[4-(4-{2-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidin-1-yl]-methanone
{4-[4-(2-Aminoethyl)anilino]-1-piperidinyl}{4-[3-(cyclopentyloxy)-4-methoxyphenyl]-1-piperidinyl}methanone formate (0.50 g, 0.88 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.350 g, 0.88 mmol) according to Procedure G to yield (eluant: 20:1 chloroform-methanol) the title compound (0.168 g, 0.181 mmol)

reactant | {4-[4-(2-Aminoethyl)anilino]-1-piperidinyl}{4-[3-(cyclopentyloxy)-4-methoxyphenyl]-1-piperidinyl}methanone formate | 0.88 mmol, 0.50 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)N2CCC(CC2)C2=CC(=C(C=C2)OC)OC2CCCC2)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.88 mmol, 0.350 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | [4-(3-Cyclopentyloxy-4-methoxy-phenyl)-piperidin-1-yl]-[4-(4-{2-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidin-1-yl]-methanone | 0.181 mmol, 0.168 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1CCN(CC1)C(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C40H54N4O6
